US06297239B1
Step B: Preparation of (4-Bromo-3-fluoro-phenyl)-(4-chloro-phenyl)-methanone
(4-Bromo-3-fluoro-phenyl)-(4-chloro-phenyl)-methanol (2.26 g, 7.16 mmol) and MnO2 (6.22 g, 70.1 mmol) was stirred in CH2Cl2 (40 mL) for 40 hr. The solution was filtered through a celite pad and concentrated to give the title compound.

reactant | (4-Bromo-3-fluoro-phenyl)-(4-chloro-phenyl)-methanol | 7.16 mmol, 2.26 g | BrC1=C(C=C(C=C1)C(O)C1=CC=C(C=C1)Cl)F | C13H9BrClFO
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 70.1 mmol, 6.22 g | O=[Mn]=O
product | (4-Bromo-3-fluoro-phenyl)-(4-chloro-phenyl)-methanone | BrC1=C(C=C(C=C1)C(=O)C1=CC=C(C=C1)Cl)F | C13H7BrClFO
